US04440935
Chloral (10.7 g in 20 ml of water) and hydroxylamine hydrochloride (4.5 g in 10 ml of water) was added simultaneously to a solution of 5,6,7,8-tetrahydro-3-amino-2-naphthol (7 g) in 50 ml of water containing 3.8 ml of concentrated HCl at 60°-70° C. The reaction mixture was neutralized with sodium acetate (25 g) to keep the PH 4.5 over a period of 1 hour. The reaction mixture was cooled, filtered, and dried thoroughly to give 8.5 g of 5,6,7,8-tetrahydronaphth[2,3-d]oxazole-2-aldoxime as dark solid product.

reactant | Chloral | 20 ml, 10.7 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | hydroxylamine hydrochloride | 10 ml, 4.5 g | Cl.NO
reactant | 5,6,7,8-tetrahydro-3-amino-2-naphthol | 7 g | NC=1C(=CC=2CCCCC2C1)O | C10H13NO
reactant | HCl | Cl | ClH
reactant | sodium acetate | 25 g | C(C)(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | 5,6,7,8-tetrahydronaphth[2,3-d]oxazole-2-aldoxime | 8.5 g | O1C(=NC2=C1C=C1CCCCC1=C2)C=NO | C12H12N2O2
